US07109219B2
4-(3-Methyl-1H-5-indolyl)oxy-2-pyridinamine
A mixture of 5-hydroxy-3-methylindole (4.7 g), 2-amino-4-chloropyridine (4.1 g), sodium hydride (1.3 g), and dimethyl sulfoxide (40 ml) was stirred at 160° C. for 15 hours. Water was added thereto; extraction was performed with ethyl acetate; and purification was performed by silica gel column chromatography (ethyl acetate, sequentially, ethyl acetate:methanol=20:1). The solvent was distilled off to yield the title compound as a brown solid (1.6 g).

reactant | 5-hydroxy-3-methylindole | 4.7 g | OC=1C=C2C(=CNC2=CC1)C | C9H9NO
reactant | 2-amino-4-chloropyridine | 4.1 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 4-(3-Methyl-1H-5-indolyl)oxy-2-pyridinamine | 1.6 g | CC1=CNC2=CC=C(C=C12)OC1=CC(=NC=C1)N | C14H13N3O
